US04806145
A mixture of 0.56 g (0.0019 mole) of 1-(2,4-dichloro-5-hydroxyphenyl)-4-fluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one and 1.1 g (0.0076 mole) of anhydrous potassium carbonate in 15 mL of acetone was stirred for 15 minutes. Sodium iodide (approximately 0.01 g) and 0.37 g (0.002 mole) of ethyl 2-bromopropionate were added, and the resultant mixture was heated at reflux for 1.5 hours. The mixture was cooled and filtered. The filtrate was evaporated under reduced pressure, leaving a residue. This residue was partitioned between diethyl ether and water. The organic phase was washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated under reduced pressure, leaving an oil. This oil was stirred in n-pentane, and the supernant was decanted, leaving an oily residue. The oil was dried at 70° C. under a stream of nitrogen to yield 0.70 g of ethyl 2-[2,4-dichloro-5-(4-fluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionate, Compound 13.

reactant | 1-(2,4-dichloro-5-hydroxyphenyl)-4-fluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.0019 mole, 0.56 g | ClC1=C(C=C(C(=C1)Cl)O)N1N=C(N(C1=O)CF)C | C10H8Cl2FN3O2
reactant | potassium carbonate | 0.0076 mole, 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromopropionate | 0.002 mole, 0.37 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | n-pentane | CCCCC | C5H12
catalyst | Sodium iodide | approximately 0.01 g | [I-].[Na+]
product | ethyl 2-[2,4-dichloro-5-(4-fluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionate | 0.70 g | ClC1=C(OC(C(=O)OCC)C)C=C(C(=C1)Cl)N1N=C(N(C1=O)CF)C | C15H16Cl2FN3O4
